US08183239B2
Phenyl-(4-{4-[(pyridine-3-carbonyl)-amino]-phenyl}-piperazin-1-yl)-acetic acid methyl ester
A mixture of [4-(4-amino-phenyl)-piperazin-1-yl]-phenyl-acetic acid methyl ester (50 mg, 0.15 mmol), nicotinic acid (23 mg, 0.18 mmol), and HATU (70 mg, 0.18 mmol) in DMF (2 mL) was treated with iPr2NEt (32 μL, 0.18 mmol). After 16 h, the mixture was diluted with H2O and extracted with DCM. The organic layer was washed with satd. aq. NaHCO3 and brine, dried (MgSO4), and concentrated to give an oil, which was purified by PTLC to give a tan solid (51 mg, 77%). MS (ESI): mass calcd. for C25H26N4O3, 430.50; m/z found, 431.4 [M+H]+. 1H NMR (CDCl3): 9.07-9.06 (m, 1H), 8.77-8.76 (m, 1H), 8.20-8.18 (m, 1H), 8.01 (s, 1H), 7.68 (br s, 1H), 7.51-7.42 (m, 4H), 7.38-7.32 (m, 3H), 6.92-6.90 (m, 2H), 4.06 (s, 1H), 3.71 (s, 3H), 3.22-3.20 (m, 4H), 2.64-2.62 (m, 4H).

reactant | [4-(4-amino-phenyl)-piperazin-1-yl]-phenyl-acetic acid methyl ester | 0.15 mmol, 50 mg | COC(C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)N)=O | C19H23N3O2
reactant | nicotinic acid | 0.18 mmol, 23 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | HATU | 0.18 mmol, 70 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 0.18 mmol, 32 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | Phenyl-(4-{4-[(pyridine-3-carbonyl)-amino]-phenyl}-piperazin-1-yl)-acetic acid methyl ester | 51 mg, 77% | COC(C(N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1C=NC=CC1)C1=CC=CC=C1)=O | C25H26N4O3
